US03983246
The 9.4 g of recovered benzohydroximoyl chloride was dissolved in 100 ml of anhydrous ether and the solution was cooled to -20°. To the cold solution was rapidly added 12.3 g of triethylamine. To this mixture was slowly added (during 45 minutes) a solution of 6.95 g of methanesulfonyl chloride in 50 ml of anhydrous ether. The mixture was stirred at -30° for 1 hour, then at ambient temperature for about 16 hours. The mixture was filtered and the filtrate was conconcentrated under reduced pressure to give a yellow solid. The solid was recrystallized from a benzene-hexane mixture to give 5.2 g of N-(methanesulfonyloxy)benzimidoyl chloride, m.p. 106°-108°.

reactant | benzohydroximoyl chloride | 9.4 g | C(C1=CC=CC=C1)(=NO)Cl | C7H6ClNO
reactant | triethylamine | 12.3 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 6.95 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | N-(methanesulfonyloxy)benzimidoyl chloride | 5.2 g | CS(=O)(=O)ON=C(C1=CC=CC=C1)Cl | C8H8ClNO3S
